US05663448
N-Acetyl-4-tert-butyl aniline
A mixture of 20 g (134 mmol) of 4-tert-butyl aniline and 0.044 g (0.67 mmol) of zinc powder in 20 ml acetic acid is heated under reflux for 7 hours. Then the crude product is poured into 350 ml of ice water and filtered. Recrystallization in ethanol-water affords 20.83 g (81%) of the title compound.

reactant | 4-tert-butyl aniline | 134 mmol, 20 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.67 mmol, 0.044 g | [Zn] | Zn
product | N-Acetyl-4-tert-butyl aniline | 20.83 g, 81% | C(C)(=O)NC1=CC=C(C=C1)C(C)(C)C | C12H17NO
